US07074809B2
4-Methyl-pyridine-2-carbaldehyde (433 mg, 71.5%) was obtained from 0.25 M 4-methyl-2-pyridinylmagnesium bromide of THF solution (20 mL, 5 mmol) with DMF (0.773 mL, 10 mmol) at room temperature under argon.

reactant | 4-methyl-2-pyridinylmagnesium bromide | 0.25 M | CC1=CC(=NC=C1)[Mg]Br
reactant | THF | 5 mmol, 20 mL | C1CCOC1 | C4H8O
reactant | DMF | 10 mmol, 0.773 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-pyridine-2-carbaldehyde | 433 mg, 71.5% | CC1=CC(=NC=C1)C=O | C7H7NO
